US05811548
0.68 ml (4.36 mmol) of diethyl azodicarboxylate was slowly added dropwise under argon and while cooling with ice to a solution of 1.95 g (3.35 mmol) of [6-(tert-butyl-diphenyl-silanyloxymethyl)-10-hexyl-phenothiazin-4-yl]-methanol, 876 mg (5.03 mmol) of phthalimide and 968 mg (3.69 mmol) of triphenylphosphine in 25 ml of tetrahydrofuran. The reaction mixture was stirred at 0° for 2 hours and at room temperature for 20 minutes and then worked up analogously to that described in Example 2.1.1 ea. The residue was chromatographed on 250 g of silica gel with diethyl ether/hexane (1:3), whereupon, after precipitation from hexane, 1.74 g (73.1%) of 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-10-hexyl-phenothiazin-4-ylmethyl]-2,3-dihydro-1H-isoindole-1,3-dione were obtained as a light yellowish amorphous solid. MS: 710 (M+, 100), 653(61), 506(16), 370(36), 308(41), 268(40), 224(21), 160(34), 130(45), 43(43).

reactant | diethyl azodicarboxylate | 4.36 mmol, 0.68 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | [6-(tert-butyl-diphenyl-silanyloxymethyl)-10-hexyl-phenothiazin-4-yl]-methanol | 3.35 mmol, 1.95 g | C(C)(C)(C)[SiH2]OC(C1=C2SC=3C(=CC=CC3N(C2=CC=C1)CCCCCC)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H43NO2SSi
reactant | phthalimide | 5.03 mmol, 876 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 3.69 mmol, 968 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-10-hexyl-phenothiazin-4-ylmethyl]-2,3-dihydro-1H-isoindole-1,3-dione | 1.74 g, 73.1% | C(C)(C)(C)[SiH2]OC(C1=C2SC=3C(=CC=CC3N(C2=CC=C1)CCCCCC)CN1C(C2=CC=CC=C2C1=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H46N2O3SSi
